US08202873B2
{4-[4-(1-Benzyl-3,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol hydrochloride
Combine [4-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-phenyl]-methanol dihydrochloride (0.210 g, 0.612 mmol), 1-benzyl-3,5-dimethyl-1H-pyrazole-4-carbaldehyde (0.131 g, 0.612 mmol) and triethylamine (0.171 mL, 1.22 mmol) in dichloroethane (5 mL). Add glacial acetic acid (50 μL) followed by sodium triacetoxyborohydride (0.181 g, 0.856 mmol). Stir at room temperature for 3 days. Dilute with saturated aq. sodium bicarbonate then extract three times using DCM. Dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 4.5:95.5 methanol (with 2 M ammonia):DCM), to give a yellow oil. Dissolve the oil in methanol and add ammonium chloride (1 equivalent) then sonicate the mixture for 10 min. Evaporate the solution to give the title compound as a yellow solid (0.241 g, 78%). MS (ES): m/z=469

reactant | [4-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-phenyl]-methanol dihydrochloride | 0.612 mmol, 0.210 g | Cl.Cl.N1(CCNCC1)C1=NC=CN=C1C1=CC=C(C=C1)CO
reactant | 1-benzyl-3,5-dimethyl-1H-pyrazole-4-carbaldehyde | 0.612 mmol, 0.131 g | C(C1=CC=CC=C1)N1N=C(C(=C1C)C=O)C | C13H14N2O
reactant | triethylamine | 1.22 mmol, 0.171 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.856 mmol, 0.181 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonium chloride | 1 equivalent | [Cl-].[NH4+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
product | {4-[4-(1-Benzyl-3,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol hydrochloride | 0.241 g, 78% | Cl.C(C1=CC=CC=C1)N1N=C(C(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CO)C | InChI=1S/C28H32N6O.ClH/c1-21-26(22(2)34(31-21)18-23-6-4-3-5-7-23)19-32-14-16-33(17-15-32)28-27(29-12-13-30-28)25-10-8-24(20-35)9-11-25;/h3-13,35H,14-20H2,1-2H3;1H
